US08114886B2
(6-Bromo-4-methylpyridin-3-yl)(2,3,6-trifluorophenyl)methanol
A hexane solution of n-butyllithium (1.54 M, 12.2 ml, 18.7 mmol) was added to a solution of 2,5-dibromo-4-methylpyridine (4.27 g, 17.0 mmol) in diethyl ether (200 ml) in an argon atmosphere at −78° C. After stirring the reaction mixture for 30 minutes, 2,3,6-trifluorobenzaldehyde (1.99 ml, 17.0 mmol) was added thereto. After stirring for 30 minutes at the same temperature, saturated aqueous ammonium chloride was added to the mixture at room temperature. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the resulting residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=4:1 was concentrated under reduced pressure to obtain the title compound (4.60 g, 13.9 mmol, 81%) as a pale yellow solid.

reactant | n-butyllithium | 18.7 mmol, 1.54 M, 12.2 ml | C(CCC)[Li]
reactant | 2,5-dibromo-4-methylpyridine | 17.0 mmol, 4.27 g | BrC1=NC=C(C(=C1)C)Br | C6H5Br2N
reactant | 2,3,6-trifluorobenzaldehyde | 17.0 mmol, 1.99 ml | FC1=C(C=O)C(=CC=C1F)F | C7H3F3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | (6-Bromo-4-methylpyridin-3-yl)(2,3,6-trifluorophenyl)methanol | 13.9 mmol, 4.60 g, 81% | BrC1=CC(=C(C=N1)C(O)C1=C(C(=CC=C1F)F)F)C | C13H9BrF3NO
